US07790704B2
a) 5-(5-chloro-2-methoxyphenyl)-nicotinic Acid
Following the procedure of Example 1b), except substituting 2-methoxy-5-chlorophenylboronic acid; for 4-carboxyphenylboronic acid; and substituting 5-bromonicotinic acid; for the compound of 1a), the title compound was prepared. MS (ES) m/z 264 [M+H].

reactant | 2-methoxy-5-chlorophenylboronic acid | COC1=C(C=C(C=C1)Cl)B(O)O | C7H8BClO3
reactant | 4-carboxyphenylboronic acid | C(=O)(O)C1=CC=C(C=C1)B(O)O | C7H7BO4
reactant | 5-bromonicotinic acid | BrC=1C=NC=C(C(=O)O)C1 | C6H4BrNO2
product | 5-(5-chloro-2-methoxyphenyl)-nicotinic Acid | ClC=1C=CC(=C(C1)C=1C=NC=C(C(=O)O)C1)OC | C13H10ClNO3
